US05922727
1-[(4-Hydroxymethylcyclopent-1-en-1-yl)methyl]-5-isopropyl-6-(3,5-di-methylphenylthio)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione and (4-t-butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide were reacted by the same way with the example 6 to obtain the titled compound (73 mg)

reactant | 5-Isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | (4-t-butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide | [Si](C)(C)(C(C)(C)C)OCC1CC=C(C1)CBr | C13H25BrOSi
product | 1-[(4-Hydroxymethylcyclopent-1-en-1-yl)methyl]-5-isopropyl-6-(3,5-di-methylphenylthio)-2,4-pyrimidinedione | 73 mg, Yield(%): 33.1 | OCC1CC=C(C1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C22H28N2O3S
